Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Bright red blood per rectum
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ with a history of HTN, rheumatoid arthritis 
on methotrexate and chronic NSAID, DM type II, dementia 
secondary to ___ Body disease who presents to ED following 2 
episodes of painless BRBPR yesterday. She reports using the 
toilet to urinate yesterday when had episode of painless bright 
red blood per rectum independent of bowel movement. This was 
followed some time later by a smaller episode of BRBPR. She 
denied dizziness, palpitations, chest pain, DOE. She endorses an 
approximately ___ pound weight loss over the past 6 months, 
which she attributes to knee surgery rehabilitation. She denies 
any change in bowel movements recently. She denies any history 
of melana, previous BRBPR, hematemesis. Her most recent 
colonoscopy was performed in ___, notable for internal 
hemorrhoids. 
.
In the ED, initial VS:  150/70 HR: 62 RR18 O2:100%RA. Her 
hematocrit was 26.9 (baseline low ___. She was gauiac positive 
on exam. 2PIV were placed. She was given 1L NS and 80mg IV 
protonix. 
.  
Currently, she is without complaint. She denies 
dizziness/CP/abdominal pain/SOB/N/V. 
.  
ROS: Denies fever, chills, night sweats, headache, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation,  
melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
- Diabetes Type II (recently D/C metformin, HBA1C 5.4)
- Rheumatoid Arthritis
- Hypertension
- Hyperlipidemia
- ___ Body Dementia
- Internal hemorrhoids
- Hypesterectomy
- Right knee arthroscopy
- Right breast lumpectomy 
 
Social History:
___
Family History:
NC
 
Physical Exam:
GENERAL: awake, alert, NAD 
HEENT:  anicteric, moist mucus membranes 
NECK: JVP flat
CARDIAC:  S1, S2 II/VI systolic murmur RUSB 
LUNG:  respirations unlabored, decreased BS left base, no 
wheezes
ABDOMEN: surgical scar midline, soft, NTND, no gaurding
EXT:  RLE swelling > LLE, painful to palpation
NEURO:  AOx3, CNII-XII intact, strength ___ bilaterally 

 
Pertinent Results:
___ 12:10PM BLOOD WBC-6.3 RBC-2.63* Hgb-8.8* Hct-26.9* 
MCV-102* MCH-33.5* MCHC-32.9 RDW-15.8* Plt ___
___ 06:45PM BLOOD Hct-23.9*
___ 06:10AM BLOOD WBC-4.8 RBC-2.92* Hgb-9.1* Hct-28.9* 
MCV-99* MCH-31.3 MCHC-31.7 RDW-16.8* Plt ___
___ 03:20PM BLOOD Hct-29.3*
___ 06:15AM BLOOD WBC-4.0 RBC-3.04* Hgb-10.0* Hct-29.9* 
MCV-99* MCH-33.0* MCHC-33.5 RDW-16.5* Plt ___
___ 03:00PM BLOOD Hct-30.6*
___ 09:00AM BLOOD WBC-5.8 RBC-3.31* Hgb-10.8* Hct-32.5* 
MCV-98 MCH-32.5* MCHC-33.2 RDW-16.7* Plt ___
___ 12:10PM BLOOD Neuts-52.2 ___ Monos-8.3 Eos-4.9* 
Baso-0.9
___ 12:10PM BLOOD Glucose-94 UreaN-33* Creat-1.4* Na-144 
K-4.1 Cl-112* HCO3-24 AnGap-12
___ 12:10PM BLOOD ALT-13 AST-19 AlkPhos-71 TotBili-0.3
___ 12:10PM BLOOD Albumin-3.6 Calcium-8.9 Phos-3.6 Mg-2.1
___ 06:10AM BLOOD VitB12-289 Folate-6.0
___ 06:10AM BLOOD TSH-3.8
___ 10:03AM BLOOD METHYLMALONIC ACID-PND

___ U/S FINDINGS: Grayscale and color Doppler sonogram of the 
right common femoral, 
superficial femoral, and popliteal veins were obtained. There is 
normal 
compressibility, flow and augmentation without evidence of DVT. 
Color flow 
was demonstrated to the calf veins, without evidence of 
thrombus. 
  
IMPRESSION: No evidence of DVT of the right lower extremity. 

 
Brief Hospital Course:
___ admitted with painless bright red blood per rectum. 

#GI Bleed. During hospitalization there was no evidence of 
active bleeding, the patient remained hemodynamically stable, 
and her HCT, which was serially trended, remained stable.  
During hospitalization she was transfused 2 units of pRBC and 
her HCT responded appropriately increasing from 23.9 on 
admission to 32.5 at discharge. The suspicion was highest for 
lower GI bleed. GI was consulted and performed a flexible 
sigmoidoscopy which demonstrated diffuse non-bleeding 
diverticula and grade III non-bleeding internal hemorrhoids.  
These were thought to be the sources of her BI bleed.  As an 
outpatient, it may be beneficial to get evaluated for 
hemorrroidal banding.

Right ___ swelling. The patient endorsed worsening right ___ 
swelling with correlation of swelling and tenderness on exam, 
which was concerning for DVT. However, ___ ultrasound was 
negative for DVT. The swelling was believed to be due to 
post-surgical changes following a knee operation earlier this 
year. 

Rheumatoid Arthritis. The patient's mobic and ASA were held in 
the setting of her GI Bleed. Pain control with tylenol was 
adequate. Methotrexate was continued.  These can be restarted 
after discussion with her primary care doctor.
 
Mild Dementia. The patient was well oriented, appropriate 
behavior, had capacity for medical decision making, with normal 
neurological exam. Donepezil was continued. 

Anemia w/ elevated MCV. Baseline HCT variable, appears to be 
approximately low ___. However, B12, tsh, folate were normal 
consistent with previous work-up.  This should be continued to 
be monitored as an outpatient.

Hypertension. The patient remained normotensive. Losartan was 
held in setting of GIB, but was restarted prior to discharge. 
 
Medications on Admission:
- Donepezil 10mg Qday
- Fosamax 35mg Qweek
- Losartan 50mg Qday
- Meloxicam 15mg Qday
- Methotrexate 2.5mg Qday for 6 days a week
- Ranitidine 150mg BID
- Timolol maleate 0.5% QAM
- Latanoprost 0.005% QAM
- Senna
- Milk of Magnesia
- Aspirin prn ~4 per day 
 
Discharge Medications:
1. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
2. Fosamax 35 mg Tablet Sig: One (1) Tablet PO once a week.  
3. Losartan 50 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Methotrexate Sodium 2.5 mg Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
5. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
6. Timolol Maleate 0.5 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily).  
7. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
9. Anusol-HC 2.5 % Cream Sig: One (1)  Rectal three times a day.
Disp:*1 * Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Gastrointestinal bleeding 
Colonic diverticula
Interal hemorrhoids

Secondary: 
Diabetes Type II
Rheumatoid arthritis
Hyperlipidemia
___ Body Dementia

 
Discharge Condition:
Stable, afebrile

 
Discharge Instructions:
You were admitted to ___ on ___ after having 2 episodes 
of bright red blood for rectum. Your red blood cell counts were 
stable during the hospitalization and there were no further 
episodes of bleeding. You were given 2 units of blood during 
your hospitalization. You underwent a flexible sigmoidoscopy to 
evaluate for a source of the bleeding.  This showed diverticular 
disease and internal hemorrhoids. You tolerated the procedure 
well. Please follow up with your primary care physician this 
week and with the GI doctors in one month. Appointments have 
been made for you below. 

Please continue taking your home medications, with one addition.
1. START APPLYING Anusol as directed for your hemorrhoids
2. START following a high fiber diet

Please return to the emergency department for any more episodes 
of bleeding from the rectum, dizziness, palpitations, chest 
pain, or worsening symptoms. 
 
Followup Instructions:
___